US06610723B2
1-(3,4-Dichloro-phenyl)-4-(2-methyl-imidazol-1-yl-methyl)-1H-pyrazole
2-Methylimidazole was deprotonated with sodium hydride and then treated with 4-chloromethyl-1-(3,4-dichloro-phenyl)-1H-pyrazole. Extractive and chromatographic workup gave the title compound as a white crystalline solid. Mp. 176-177° C. (AcOEt), MS: m/e=307(M+H+).

reactant | 2-Methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethyl-1-(3,4-dichloro-phenyl)-1H-pyrazole | ClCC=1C=NN(C1)C1=CC(=C(C=C1)Cl)Cl | C10H7Cl3N2
product | 1-(3,4-Dichloro-phenyl)-4-(2-methyl-imidazol-1-yl-methyl)-1H-pyrazole | ClC=1C=C(C=CC1Cl)N1N=CC(=C1)CN1C(=NC=C1)C | C14H12Cl2N4
